US08106064B2
N-(3-Cyano-5-fluoro-phenyl)-2,2,2-trifluoro-N-(4-methoxy-benzyl)-acetamide
To a stirred solution of 3-fluoro-5-(4-methoxy-benzylamino)-benzonitrile (5.8 g, 22.65 mmol) in dichloromethane (50 ml) cooled in an ice bath, was added triethylamine (4.74 ml, 33.98 mmol) and trifluoroacetic anhydride (3.78 ml, 27.18 mmol). After 30 min., the mixture was stirred for 3 hr. at room temperature. The mixture was then washed with saturated aqueous sodium bicarbonate solution, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, EA:hexane (1:6)) to afford 7.87 g (98%) of a white solid. m.p. 102-103° C.; 1H NMR (200 MHz, CDCl3) δ3.80 (3H, s), 4.85 (2H, s), 6.82 (2H, d, J=7.0 Hz), 6.95-7.10 (4H, m), 7.39 (1H, d, J=7.2 Hz).

reactant | 3-fluoro-5-(4-methoxy-benzylamino)-benzonitrile | 22.65 mmol, 5.8 g | FC=1C=C(C#N)C=C(C1)NCC1=CC=C(C=C1)OC | C15H13FN2O
reactant | triethylamine | 33.98 mmol, 4.74 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 27.18 mmol, 3.78 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(3-Cyano-5-fluoro-phenyl)-2,2,2-trifluoro-N-(4-methoxy-benzyl)-acetamide | 7.87 g, 98% | C(#N)C=1C=C(C=C(C1)F)N(C(C(F)(F)F)=O)CC1=CC=C(C=C1)OC | C17H12F4N2O2
